US05859007
To a stirring solution of 833 mg (3.61 mmol) of 2-Benzyl-5-methyl-2H-pyrazole-3-carboxylic acid methyl ester, prepared as in Part B, in 5 mL of THF at 0° C. is added dropwise over 5 min a solution of 5.5 mL (5.5 mmol, 1.5 equiv) of a 1.0M solution of LiAlH4 in THF. The resulting solution is stirred at RT for 48 h. The reaction mixture is cooled to 0° C. and worked up by carefully quenching first with 0.20 mL of H2O, then 0.20 mL of 15% NaOH, then 0.60 mL of H2O. The resulting slurry is filtered and the filter cake triturated with 20 mL EtOAc and refiltered. The filtrates were combined, dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by Kugelrohr distillation gave 710 mg of (2-Benzyl-5-methyl-2H-pyrazol-3yl) methanol as a clear oil: 1H NMR (CDCl3, 300 MHz) δ7.41-7.29 (m, 3H), 7.16 (m, 2H), 6.07 (s, 1H), 5.37 (s, 2H), 4.55 (s, 2H), 2.30 (s, 3H); low resolution MS (FAB)m/e 203 (MH+).

reactant | 2-Benzyl-5-methyl-2H-pyrazole-3-carboxylic acid methyl ester | 3.61 mmol, 833 mg | COC(=O)C=1N(N=C(C1)C)CC1=CC=CC=C1 | C13H14N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-Benzyl-5-methyl-2H-pyrazol-3yl) methanol | 710 mg | C(C1=CC=CC=C1)N1N=C(C=C1CO)C | C12H14N2O
